US05412097
Step 4: Preparation of 7-methyl-2-propyl-3-[[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl]-6-[(1-oxobutyl)amino]-3H-imidazo[4,5-b]pyridine
A solution of 7-methyl-2-propyl-3-[2'-(N-tert-butylaminosulfonyl)[1,1']-biphenyl-4-yl]methyl-6-[(1-oxobutyl)amino]-3H-imidazo[4,5-b]pyridine. (516 mg) in trifluoroacetic acid (30 mL) was stirred at r.t. for 12 h. The mixture was concentrated, dissolved in CH2Cl2 (100 mL) and washed with saturated aqueous Na2CO3. The organic extracts were dried (K2CO3) and concentrated to give the title compound as a solid.

reactant | 7-methyl-2-propyl-3-[2'-(N-tert-butylaminosulfonyl)[1,1']-biphenyl-4-yl]methyl-6-[(1-oxobutyl)amino]-3H-imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1NC(CCC)=O)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)NC(C)(C)C | C31H39N5O3S
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-methyl-2-propyl-3-[[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl]-6-[(1-oxobutyl)amino]-3H-imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1NC(CCC)=O)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N | C27H31N5O3S
